US07291642B2
Analogously to 13b), N-{2-[(4-chloro-2,5-dimethylbenzenesulphonyl)methylamino]ethyl}-3-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]propionamide was prepared from 1.15 g (2.65 mmol) of N-{2-[(4-chloro-2,5-dimethylbenzenesulphonyl)methylamino]ethyl}-3-(4-cyanophenyl)propionamide, 85 mg (2.65 mmol) of sulphur and 4 ml of ethylenediamine.

reactant | N-{2-[(4-chloro-2,5-dimethylbenzenesulphonyl)methylamino]ethyl}-3-(4-cyanophenyl)propionamide | 2.65 mmol, 1.15 g | ClC1=CC(=C(C=C1C)S(=O)(=O)CNCCNC(CCC1=CC=C(C=C1)C#N)=O)C | C21H24ClN3O3S
reactant | sulphur | 2.65 mmol, 85 mg | [S] | S
reactant | ethylenediamine | 4 ml | C(CN)N | C2H8N2
product | N-{2-[(4-chloro-2,5-dimethylbenzenesulphonyl)methylamino]ethyl}-3-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]propionamide | ClC1=CC(=C(C=C1C)S(=O)(=O)CNCCNC(CCC1=CC=C(C=C1)C=1NCCN1)=O)C | C23H29ClN4O3S
